US04943591
4-[4-[3-[[6-[(Phenylmethyl)amino]hexyl]oxy]-1-propynyl]benzoyl]-morpholine
4-(4-Iodobenzoyl)morpholine (4.0 g) and N-[6-[(2-propynyl)oxy]- hexyl]benzenemethanamine (3.09 g) were reacted according to the method of Intermediate 31. FCC purification eluting with ethyl acetate-triethylamine (100:1) gave the title compound as a yellow oil (2.21 g), t.l.c. (Ethyl acetate-triethylamine 100:1) Rf 0.2.

reactant | 4-(4-Iodobenzoyl)morpholine | 4.0 g | IC1=CC=C(C(=O)N2CCOCC2)C=C1 | C11H12INO2
reactant | N-[6-[(2-propynyl)oxy]- hexyl]benzenemethanamine | 3.09 g | C(C#C)OCCCCCCNCC1=CC=CC=C1 | C16H23NO
product | 4-[4-[3-[[6-[(Phenylmethyl)amino]hexyl]oxy]-1-propynyl]benzoyl]-morpholine | 2.21 g | C1(=CC=CC=C1)CNCCCCCCOCC#CC1=CC=C(C(=O)N2CCOCC2)C=C1 | C27H34N2O3
